US06693123B2
To a solution in methanol (15 mL) of 4-(3-pyridyloxymethylene)-2-phenoxybenzoic acid methyl ester (2.46 g), prepared as in Example 157E, was added a solution of 5% aqeuous KOH (2.00 g) in water (3 mL). The reaction mixture was heated at reflux for 1.5 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in water. The aqueous phase was acidified with acetic acid with cooling and stirring. The resulting solid was filtered, washed with water, and dissolved in THF. The THF solution was dried over Na2SO4, filtered, and concentrated in vacuo to give 4-(3-pyridyloxymethyl)-2-phenoxybenzoic acid (2.17 g).

reactant | 4-(3-pyridyloxymethylene)-2-phenoxybenzoic acid methyl ester | 2.46 g | COC(C1=C(CC(C=C1)=COC=1C=NC=CC1)OC1=CC=CC=C1)=O | C20H17NO4
reactant | KOH | 2.00 g | [OH-].[K+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 4-(3-pyridyloxymethyl)-2-phenoxybenzoic acid | 2.17 g | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)O)C=C1)OC1=CC=CC=C1 | C19H15NO4
